US07008957B2
1b) Allyl (2S,4S)-4-allyl-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate
3.16 g of allyl (2S,4S)-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate in 20 ml of tetrahydrofuran are cooled in a dry ice bath to −65° C. under argon, and 20.9 ml of a 0.5 molar solution of potassium bistrimethylsilylamide in toluene are added dropwise, and the mixture is stirred at this temperature for 30 minutes. Then 0.861 ml of allyl bromide are added dropwise, and the mixture is stirred while gradually warming to room temperature. After being left to stand overnight, 15 ml of saturated ammonium chloride solution were added, and the product was extracted with ethyl acetate. Washing of the ethyl acetate solution with saturated brine was followed by evaporation in vacuo and purification of the product by column chromatography (silica gel, mobile phase: ethyl acetate:heptane=5:45).

reactant | allyl (2S,4S)-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate | 3.16 g | C(C1=CC=CC=C1)[C@@H]1N([C@@H](OC1=O)C(C)(C)C)C(=O)OCC=C | C18H23NO4
reactant | potassium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | allyl bromide | 0.861 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Allyl (2S,4S)-4-allyl-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate | C(C=C)[C@]1(N([C@@H](OC1=O)C(C)(C)C)C(=O)OCC=C)CC1=CC=CC=C1 | C21H27NO4
